US05750531
Step 2: 6-Methyl-2-(2-methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.8 ml, 7.2 mmol) was added to a mixture solution of 6-methyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine(1.0 g, 3.8 mmol) and dimethylformamide(10 ml), 0.85 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methyl-4-fluoroaniline | 7.2 mmol, 0.8 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 6-methyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine | 3.8 mmol, 1.0 g | CC1=CC(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1 | C14H14ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-Methyl-2-(2-methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.85 g, Yield: 58% | Cl.CC1=CC(=NC(=N1)NC1=C(C=C(C=C1)F)C)N1CC2=CC=CC=C2CC1 | InChI=1S/C21H21FN4.ClH/c1-14-11-18(22)7-8-19(14)24-21-23-15(2)12-20(25-21)26-10-9-16-5-3-4-6-17(16)13-26;/h3-8,11-12H,9-10,13H2,1-2H3,(H,23,24,25);1H
